US05618807
(a) 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5,16-trien- 17-yl trifluoromethanesulphonate
The method followed that described in Example 1 (a) but using 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5-dien-17-one (5.03 g, 10 mmol), prepared as described in M. Jannan and R. McCague, J. Chem. Soc., Perkin Trans. 1, 1129 (1987), dichloromethane (80 ml), 2,6-di+butyl-4-methylpyridine (2.87g, 14 mmol), and trifluoromethanesulphonic anhydride (1.85 ml, 11 mmol). Chromatography, on elution with light petroleum- dichloromethane (10:1), afforded the title compound (1.93 g, 30%) which crystallised from ethanol, m.p. 106°-107° C. 1H-NMR (CDCl3) inter alia δ 1.02(6H,s,18 and 19-CH3), 5.16(1H,s,4-H, 5.28(1H,m,6-H), 5.59-(1H,m,16-H); MS m/z 634(M+).

reactant | 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5-dien-17-one | 10 mmol, 5.03 g | FC1=C(OC2=CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)=O)C(=C(C(=C1F)C(F)(F)F)F)F | C26H25F7O2
reactant | butyl-4-methylpyridine | 14 mmol, 2.87g | C(CCC)C1=NC=CC(=C1)C | C10H15N
reactant | trifluoromethanesulphonic anhydride | 11 mmol, 1.85 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-[2,3,5,6-tetrafluoro-4-(trifluoromethyl)phenoxy]androsta-3,5,16-trien- 17-yl trifluoromethanesulphonate | 1.93 g, 30% | FC(S(=O)(=O)OC=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)OC2=C(C(=C(C(=C2F)F)C(F)(F)F)F)F)(F)F | C27H24F10O4S
